US06498172B1
5-(3-((3-(3-Chloro-phenyl)-propyl)-(pyridine-3-sulfonyl)-amino)-propyl)-thiophene-2-carboxylic acid methyl ester
A solution of 5-(3-(3-(3-chloro-phenyl)-propylamino)-propyl)-thiophene-2-carboxylic acid methyl ester (from Preparation 8, 0.0855 g, 0.243 mmol), triethylamine (0.0541 g 0.534 mmol), and pyridine-3-sulfonyl chloride hydrochloride (from Preparation 2, 0.0572 g, 0.267 mmol) in 10 mL CH2Cl2 combined at 0° C. was stirred at room temperature overnight. The organic solution was washed with water, saturated NaHCO3 and brine, dried over MgSO4, filtered and concentrated in vacuo to afford the title compound of Step A as an oil. MS 494 (M+1).

reactant | 5-(3-(3-(3-chloro-phenyl)-propylamino)-propyl)-thiophene-2-carboxylic acid methyl ester | 0.243 mmol, 0.0855 g | COC(=O)C=1SC(=CC1)CCCNCCCC1=CC(=CC=C1)Cl | C18H22ClNO2S
reactant | triethylamine | 0.534 mmol, 0.0541 g | C(C)N(CC)CC | C6H15N
reactant | pyridine-3-sulfonyl chloride hydrochloride | 0.267 mmol, 0.0572 g | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-(3-((3-(3-Chloro-phenyl)-propyl)-(pyridine-3-sulfonyl)-amino)-propyl)-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1)CCCN(S(=O)(=O)C=1C=NC=CC1)CCCC1=CC(=CC=C1)Cl | C23H25ClN2O4S2
